US05952362
A heterogeneous mixture of 6.0 g of (4-hydroxy-3-nitro-phenoxy)-acetonitrile, 50 ml N,N-dimethylformamide, 12.8 g of potassium carbonate, and 5.8 g of benzyl bromide was heated with stirring at 70° C. for 22 hours. The mixture was cooled to room temperature, poured into ethyl acetate, washed with water, washed with 1N sodium hydroxide, again with water, dried (MgSO4), evaporated, and obtained 7.06 g of (4-benzyloxy-3-nitro-phenoxy)-acetonitrile as a tan solid.

reactant | (4-hydroxy-3-nitro-phenoxy)-acetonitrile | 6.0 g | OC1=C(C=C(OCC#N)C=C1)[N+](=O)[O-] | C8H6N2O4
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 12.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 5.8 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-benzyloxy-3-nitro-phenoxy)-acetonitrile | 7.06 g | C(C1=CC=CC=C1)OC1=C(C=C(OCC#N)C=C1)[N+](=O)[O-] | C15H12N2O4
